US04973695
Isopropyl alcohol 300 ml and 90% formic acid 12.8 g (0.250 mol) were placed in 500 ml four-neck flask equipped with a reflux condenser. After heating the content to 70° C., a mixture of 2-ethyl-2-butenal 21.6 g (0.22 mol) and ethyl β-amino-β-ethoxycarbonylacrylate 31.1 g (0.166 mol) was added dropwise thereto with air-bubbling and refluxed for 48 hours. To this reaction mixture, conc. hydrochloric acid 10 ml was added dropwise thereto to precipitate remaining ethyl β-amino-β-ethoxy-carbonylacrylate as its hydrochloride form and filtered off at 20° C. Concentration of the filtrate gave 52.2 g of oily substance, which was subjected to silica gel column-chromatography (eluent; ethyl acetate: benzene=1:3) and 10.7 g of 5-ethyl-4-methyl-2,3-diethoxycarbonylpyridine was obtained.

reactant | Isopropyl alcohol | 300 ml | C(C)(C)O | C3H8O
reactant | formic acid | 0.250 mol, 12.8 g | C(=O)O | CH2O2
reactant | 2-ethyl-2-butenal | 0.22 mol, 21.6 g | C(C)C(C=O)=CC | C6H10O
reactant | ethyl β-amino-β-ethoxycarbonylacrylate | 0.166 mol, 31.1 g | NC(=CC(=O)OCC)C(=O)OCC | C8H13NO4
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-ethyl-4-methyl-2,3-diethoxycarbonylpyridine | 10.7 g | C(C)C=1C(=C(C(=NC1)C(=O)OCC)C(=O)OCC)C | C14H19NO4
